US06844344B2
Preparation of 4-(4-Methylbenzothiazol-2-yl)-2-methyl-1,2,5,6-tetrahydropyridine.
Scheme IIA, Step B: To a mixture of 1-(t-butyloxycarbonyl)-4-(4-methylbenzothiazol-2-yl)-2-methyl-1,2,5,6-tetrahydropyridine (1.297 g, 3.77 mmol) in dichloromethane (12 mL) at 0° C. was added trifluoroacetic acid (12 mL). The mixture was stirred at 0° C. for 30 minutes, then at 20° C. for 30 minutes. The mixture was diluted with 2 N sodium hydroxide and extracted 3 times with ethyl acetate. The combined organics were dried over sodium sulfate then filtered and evaporated. The residue was chromatographed over silica gel (dichloromethane/10% methanol/1% ammonium hydroxide in dichloromethane gradient elution) to give the intermediate title compound as a yellow oil (0.738 g, 85%). FDMS m/e=245 (M++1).

reactant | 1-(t-butyloxycarbonyl)-4-(4-methylbenzothiazol-2-yl)-2-methyl-1,2,5,6-tetrahydropyridine | 3.77 mmol, 1.297 g | C(C)(C)(C)OC(=O)N1C(C=C(CC1)C=1SC2=C(N1)C(=CC=C2)C)C | C19H24N2O2S
reactant | trifluoroacetic acid | 12 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | sodium hydroxide | 2 N | [OH-].[Na+]
product | 4-(4-Methylbenzothiazol-2-yl)-2-methyl-1,2,5,6-tetrahydropyridine | 0.738 g, 85% | CC1=CC=CC2=C1N=C(S2)C2=CC(NCC2)C | C14H16N2S
